### PR TITLE
[Merged by Bors] - feat: gcd and coprime sub

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mo271** [comment]
I'm not super sure about the naming. 
I also considered if this was a good addition to std, but I think this is the better place for it.

File: Mathlib/Data/Nat/GCD/Basic.lean [hunk 1]
```diff
@@ -186,6 +214,14 @@ theorem coprime_mul_left_add_left (m n k : ℕ) : coprime (n * k + m) n ↔ copr
   rw [coprime, coprime, gcd_mul_left_add_left]
 #align nat.coprime_mul_left_add_left Nat.coprime_mul_left_add_left
 
+@[simp]
+theorem coprime_self_sub_left (m n : ℕ) (h : m ≤ n) : coprime (n - m) n ↔ coprime m n:= by
```
Comment (alexjbest) [inline Mathlib/Data/Nat/GCD/Basic.lean:218]:
```suggestion
theorem coprime_self_sub_left (m n : ℕ) (h : m ≤ n) : coprime (n - m) n ↔ coprime m n := by
```

File: Mathlib/Data/Nat/GCD/Basic.lean [hunk 2]
```diff
@@ -186,6 +214,14 @@ theorem coprime_mul_left_add_left (m n k : ℕ) : coprime (n * k + m) n ↔ copr
...
+  rw [coprime, coprime, gcd_self_sub_left _ _ h]
+
+@[simp]
+theorem coprime_self_sub_right (m n : ℕ) (h : m ≤ n) : coprime n (n - m) ↔ coprime m n:= by
```
Comment (alexjbest) [inline Mathlib/Data/Nat/GCD/Basic.lean:222]:
```suggestion
theorem coprime_self_sub_right (m n : ℕ) (h : m ≤ n) : coprime n (n - m) ↔ coprime m n := by
```

File: Mathlib/Data/Nat/GCD/Basic.lean [hunk 3]
```diff
@@ -88,6 +89,33 @@ theorem gcd_self_add_right (m n : ℕ) : gcd m (m + n) = gcd m n := by
...
+
+theorem gcd_self_sub_symm (m n : ℕ) (h : m ≤ n) : gcd (n - m) n = gcd (n - m) m := by
+  nth_rw 2 [← Nat.add_sub_cancel' h]
+  rw [gcd_add_self_right, gcd_comm]
+
+theorem gcd_sub_self_symm (m n : ℕ) (h : m ≤ n) : gcd n (n - m) = gcd m (n - m) := by
+  rw [gcd_comm, gcd_self_sub_symm m n h, gcd_comm]
+
+@[simp]
+theorem gcd_sub_self_left (m n : ℕ) (h : m ≤ n) : gcd (n - m) n = gcd n m := by
```
Comment (alexjbest) [inline Mathlib/Data/Nat/GCD/Basic.lean:102]: I wonder if you can prove this more directly without the first two lemmas (which seem of limited utility once the others are established).
Via `gcd n m = gcd (n - m + m) m = gcd (n - m) m`. This should be only two rewrites it seems (sorry I'm on a train and don't have lean available)

Comment (mo271) [reply Mathlib/Data/Nat/GCD/Basic.lean]: Yes, I agree that the `...symm` lemmas are not super useful on their own.

Now you mention it: 
The lemma you propose is different still from the lemmas I prove, but probably also useful.
So for the add version we have 4 theorems for all the combinations, but for the sub part we have eualities involving `gcd (n - m) n` and `gcd (n - m) m`, which are different. This leads to 8 theorems.

I don't know what good names are, but I tried to keep it analogous to the corresponding `add`  names.

File: Mathlib/Data/Nat/GCD/Basic.lean [hunk 4]
```diff
@@ -88,6 +89,47 @@ theorem gcd_self_add_right (m n : ℕ) : gcd m (m + n) = gcd m n := by
...
+
+@[simp]
+theorem gcd_sub_self_left (m n : ℕ) (h : m ≤ n) : gcd (n - m) m = gcd n m := by
+  calc
+    gcd (n - m) m = gcd (n - m + m) m  := by rw [← gcd_add_self_left (n - m) m]
+                _ = gcd n m := by rw [Nat.sub_add_cancel h]
+
+@[simp]
+theorem gcd_self_sub_left (m n : ℕ) (h : m ≤ n) : gcd (n - m) m = gcd m n := by
+  rw [gcd_sub_self_left _ _ h, gcd_comm]
```
Comment (adomani) [inline Mathlib/Data/Nat/GCD/Basic.lean:102]: Is `simp` going to ever fire on the second one?  It seems that if it could fire on the second, it would have already fired on the first.

**Comment by adomani** [comment]
What is the reason to introduce the lemmas that deal with subtraction *and then* switch the inputs to `gcd`?  I would have thought that there should be the `simp` lemma that removes the subtraction, but I am not sure about also swapping the arguments.

File: Mathlib/Data/Nat/GCD/Basic.lean [hunk 5]
```diff
@@ -186,6 +228,24 @@ theorem coprime_mul_left_add_left (m n k : ℕ) : coprime (n * k + m) n ↔ copr
   rw [coprime, coprime, gcd_mul_left_add_left]
 #align nat.coprime_mul_left_add_left Nat.coprime_mul_left_add_left
 
+
+@[simp]
+theorem coprime_self_sub_left (m n : ℕ) (h : m ≤ n) : coprime (n - m) m ↔ coprime m n := by
```
Comment (adomani) [inline Mathlib/Data/Nat/GCD/Basic.lean:233]:
```suggestion
theorem coprime_sub_self_left (m n : ℕ) (h : m ≤ n) : coprime (n - m) m ↔ coprime m n := by
```
I would probably put `sub` first here, since it appears earlier in the goal.  If you like this change, the following lemmas can follow the same convention.

**Comment by mo271** [comment]
> What is the reason to introduce the lemmas that deal with subtraction _and then_ switch the inputs to `gcd`? I would have thought that there should be the `simp` lemma that removes the subtraction, but I am not sure about also swapping the arguments.

The reason I added both versions was to try to be in sync with what is done for the `add` lemmas above. Let's see:
```
1: gcd m (n + m) = gcd m n
2: gcd (m + n) n = gcd m n
3: gcd (m + n) m = gcd n m
4: gcd m (m + n) = gcd m n
```
exchanging `m` and `n` on the righthand side to always be gcd m n, we then have
```
1: gcd m (n + m) 
2: gcd (m + n) n
3: gcd (n + m) n
4: gcd m (m + n) 
```
by analogy we replace the `+` by the `-`
```
1: gcd m (n - m) 
2: gcd (m - n) n
3: gcd (n - m) n
4: gcd m (m - n) 
```
I suppose you are right, there are only 4 lemmas needed. That's what I did now...

File: Mathlib/Data/Nat/GCD/Basic.lean (hunk 5 above)
Comment (mo271) [reply Mathlib/Data/Nat/GCD/Basic.lean]: I essentially followed your suggestion, except keeping the `left` with the name.

All arguements `m n` made implicit now, also above.

File: Mathlib/Data/Nat/GCD/Basic.lean (hunk 4 above)
Comment (mo271) [reply Mathlib/Data/Nat/GCD/Basic.lean]: That makes sense. Since it is never quite clear what would be the better `simp`, perhaps it would be best to remove  both?! That is what I have done now.

File: Mathlib/Data/Nat/GCD/Basic.lean (hunk 3 above)
Comment (mo271) [reply Mathlib/Data/Nat/GCD/Basic.lean]: I'm happy with the naming now...

**Comment by adomani** [comment]
Yes, my reasoning was: the argument that does not have `add/sub` stays what it is and does not swap places with the other.  The `simp` lemma just undoes one operation in one coordinate, but does not also swap coordinates.

Of course, e.g. in the Euclidean algorithm, you alternate subtracting and swapping, but I think that the `simp` lemma should not be trying to do that.

**Review by adomani — APPROVED** [review]
I personally find the naming strange, but it seems to be consistent with the `add` versions.  LGTM!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Comment by ADedecker** [comment]
bors retry
